US05521147
A stirred solution of 1.2 grams (0.005 mole) of 7-amino-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran in 50 mL of N,N-dimethylformamide was cooled in an ice-water bath, and 1.0 gram (0.005 mole) of N-bromosuccinimide was added. Upon completion of the addition, the reaction mixture was stirred at the ice-water bath temperature for about one hour and then allowed to warm to ambient temperature, where it stirred for about 18 hours. The reaction mixture was diluted with an aqueous 10% lithium chloride solution, and extracted with two portions of ethyl acetate. The combined extracts were washed with 50 mL of an aqueous 10% lithium chloride solution and dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residual oil, which was subjected to column chromatography on silica gel, with 1:4 ethyl acetate:heptane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 1.6 grams of 7-amino-4-bromo-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran. The NMR spectrum was consistent with the proposed structure.

reactant | 7-amino-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran | 0.005 mole, 1.2 grams | NC1=CC=CC=2CC(OC21)(C)C(=O)OCC | C12H15NO3
reactant | N-bromosuccinimide | 0.005 mole, 1.0 gram | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | lithium chloride | [Cl-].[Li+]
product | 7-amino-4-bromo-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran | 1.6 grams | NC1=CC=C(C=2CC(OC21)(C)C(=O)OCC)Br | C12H14BrNO3
